US05243025
Preparation of (CH3)3SiO(CH2)5OSi(CH3)3
1,5-Pentanediol (65 g, 0.62 mol) was placed in a 500 mL 3-necked RB flask and treated with 0.4 mL trimethylsilyl chloride. A portion of HMDS (ca. 20 mL) was added, and an exothermic reaction took place as the mixture became homogeneous. The remainder of the HMDS (130 mL, 0.71 mol total) was added at a controlled rate (ca. 3-5 mL/min), maintaining the reaction temperature at ca. 50° C. Heating was continued at 100° C. (1 h), and 150° C. (2.5 h). GC analysis (method 1) revealed excess HMDS and one product. Distillation provided 139 g of colorless oil, bp 47°-49° C./0.1 mm. 1H NMR (CDCl3): 3.60 (t, J=7Hz, 4H), 1.57 (m, 4H), 1.40 (m, 2H), 0.12 (s, 18H), consistent with the assigned structure.

reactant | 1,5-Pentanediol | 0.62 mol, 65 g | C(CCCCO)O | C5H12O2
reactant | trimethylsilyl chloride | 0.4 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | HMDS | ca. 20 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
solvent | HMDS | 0.71 mol, 130 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
product | (CH3)3SiO(CH2)5OSi(CH3)3 | 139 g | [Si](C)(C)(C)OCCCCCO[Si](C)(C)C | C11H28O2Si2
